US06603008B1
1-[4-Amino-3-(trifluoromethyl)phenyl]-1-ethanone (Step 2)
A mixture of 1-[4-nitro-3-(trifluoromethyl)phenyl]-1-ethanone (1.41 g, 6.05 mmol), Fe powder (1.69 g, 30.2 mmol), and NH4Cl (324 mg, 6.05 mmol) in EtOH (24 ml) and water (9 ml) was heated to reflux for 2.5 hours. After cooling to room temperature, the mixture was filtered through a pad of Celite and the filtrate was concentrated. And the residue was dissolved with ethyl acetate (100 ml), washed with water (100 ml), dried over MgSO4, and concentrated in vacuo to give 1.22 g (quant.) of the title compound as a pale yellow oil.

reactant | 1-[4-nitro-3-(trifluoromethyl)phenyl]-1-ethanone | 6.05 mmol, 1.41 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)=O)C(F)(F)F | C9H6F3NO3
reactant | NH4Cl | 6.05 mmol, 324 mg | [NH4+].[Cl-]
solvent | EtOH | 24 ml | CCO | C2H6O
solvent | water | 9 ml | O | H2O
catalyst | Fe | 30.2 mmol, 1.69 g | [Fe] | Fe
product | 1-[4-Amino-3-(trifluoromethyl)phenyl]-1-ethanone | NC1=C(C=C(C=C1)C(C)=O)C(F)(F)F | C9H8F3NO
